US03994955
Following the procedure in Example 1 using 7.1 parts of ethyl 2-(4-formylphenoxy)-2-methyl-2-ethylacetate and 4.9 parts of p-bromoacetophenone in 10 parts by volume of ethanol containing 0.1 part of sodium metal provides ethyl 2-[4-(2-p-bromobenzoylethenyl)phenoxy]-2,2-dimethylacetate. This compound has the following structural formula. ##SPC7##

reactant | ethyl 2-(4-formylphenoxy)-2-methyl-2-ethylacetate | C(=O)C1=CC=C(OC(C(=O)OCC)(CC)C)C=C1 | C14H18O4
reactant | p-bromoacetophenone | BrC1=CC=C(C=C1)C(C)=O | C8H7BrO
reactant | sodium | [Na] | Na
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-[4-(2-p-bromobenzoylethenyl)phenoxy]-2,2-dimethylacetate | BrC1=CC=C(C(=O)C=CC2=CC=C(OC(C(=O)OCC)(C)C)C=C2)C=C1 | C21H21BrO4
